US07279481B2
1,1-Dimethylethyl 4-(2-methyl-5-quinolinyl)-1-piperazinecarboxylate
A solution of 2-methyl-5-quinolinyl trifluoromethanesulfonate (1 wt, 1 eq) in toluene (7 vol) was degassed under reduced pressure then flushed with nitrogen. To the mixture were added N-Boc-piperazine (1.05 eq), milled cesium carbonate (1.5 eq), (±)-bis(diphenylphosphino)1,1′-binaphthyl (BINAP, 0.15 eq) and palladium acetate (0.05 eq). The resulting mixture was stirred at 95° C. for 16 hours. The solution was cooled and concentrated to approx. 4 vol and 10 vol of cyclohexane were added giving a suspension. The suspension was stirred for 30 minutes and filtered over a pad of Silica Gel (approx 2.5 vol). The filtrate was washed with 10 vol of water and concentrated under reduced pressure to give the title compound as a brown solid, which was carried through directly to the next stage.

reactant | 2-methyl-5-quinolinyl trifluoromethanesulfonate | 1 eq | FC(S(=O)(=O)OC1=C2C=CC(=NC2=CC=C1)C)(F)F | C11H8F3NO3S
reactant | N-Boc-piperazine | 1.05 eq | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | cesium carbonate | 1.5 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (±)-bis(diphenylphosphino)1,1′-binaphthyl | 0.15 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C=1C(=C(C2=CC=CC=C2C1)C1=CC=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.05 eq | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1,1-Dimethylethyl 4-(2-methyl-5-quinolinyl)-1-piperazinecarboxylate | CC1=NC2=CC=CC(=C2C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C19H25N3O2
